US08471005B2
[7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(2-methyl-benzoxazol-5-yl)-amine
The Title compound was prepared in the following manner: A mixture of Trifluoro-methanesulfonic acid 7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester (100 mg, 0.3 mmol), 2-Methyl-benzoxazol-5-ylamine; hydrochloride (100 mg, 0.5 mmol), N,N-Diisopropylethylamine (2 mL, 10 mmol), and 1-Methoxy-2-propanol (0.3 mL, 3 mmol) were heated at 80° C. overnight. The reaction was concentrated, filtered and placed onto the Gilson. The pure fractions were lyophilized to give a yellow solid (30 mg, 20%). LCMS (E/I+) 372 (M+H). NMR 1H (DMSO-d6)-9.5 (s, 1H), 9.0 (s, 1H), 8.2 (s, 1H), 7.78 (d, 1H, J=7.80 Hz), 7.45-7.54 (m, 3H), 7.23 (d, 1H, J=8.26), 7.12 (t, 1H, J=7.51 Hz), 6.92-6.96 (m, 2H), 3.84 (s, 3H), 2.58 (s, 3H).

reactant | Trifluoro-methanesulfonic acid 7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester | 0.3 mmol, 100 mg | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)OS(=O)(=O)C(F)(F)F | C14H10F3N3O4S
reactant | 2-Methyl-benzoxazol-5-ylamine | CC=1OC2=C(N1)C=C(C=C2)N | C8H8N2O
reactant | hydrochloride | 0.5 mmol, 100 mg | Cl | ClH
reactant | N,N-Diisopropylethylamine | 10 mmol, 2 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-Methoxy-2-propanol | 3 mmol, 0.3 mL | COCC(C)O | C4H10O2
product | [7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(2-methyl-benzoxazol-5-yl)-amine | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC=2C=CC1=C(N=C(O1)C)C2 | C21H17N5O2
